US09029528B2
(1) Synthesis of methyl [3,5-bis(docosyloxy)]benzoate
Potassium carbonate (19.9 g, 144 mmol) was suspended in dehydrating N,N-dimethylformamide (200 mL), 1-bromodocosane (15.6 g, 46.7 mmol) and methyl (3,5-dihydroxy)benzoate (3.60 g, 21.4 mmol) were added, and the mixture was stirred at 90° C. overnight. After completion of the reaction, the reaction mixture was poured into purified water (800 mL), the mixture was stirred for 1 hr, and the precipitated solid was collected by filtration. The obtained solid was dissolved again in dichloromethane (800 mL), and the insoluble material was filtered off. The filtrate was concentrated under reduced pressure, and acetone was added again to precipitate a solid. The solid was collected by filtration and slurry-washed in methanol. After filtration, the obtained solid was dried under reduced pressure to give the title compound (13.9 g, 96.5%) as a white solid.

reactant | Potassium carbonate | 144 mmol, 19.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromodocosane | 46.7 mmol, 15.6 g | BrCCCCCCCCCCCCCCCCCCCCCC | C22H45Br
reactant | methyl (3,5-dihydroxy)benzoate | 21.4 mmol, 3.60 g | OC=1C=C(C(=O)OC)C=C(C1)O | C8H8O4
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | methyl [3,5-bis(docosyloxy)]benzoate | 13.9 g, 96.5% | C(CCCCCCCCCCCCCCCCCCCCC)OC=1C=C(C(=O)OC)C=C(C1)OCCCCCCCCCCCCCCCCCCCCCC | C52H96O4
